US07884234B2
(2) Preparation of 2-[4-(tert-butyl)phenyl]amino-4′-(trifluoromethoxy)biphenyl
A mixture of 2-amino-4′-(trifluoromethoxy)biphenyl (633 mg, 2.50 mmol), 1-bromo-4-(tert-butyl)benzene (533 mg, 2.50 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (124 mg, 0.2 mmol), bis(dibenzylideneacetone)palladium (0) (72 mg, 0.125 mmol), potassium tert-butoxide (1.68 g, 15.0 mmol) and toluene (10 ml) was stirred at 60° for 5 hours under argon atmosphere. After the reaction mixture was cooled to room temperature, saturated aqueous ammonium chloride. The mixture was filtered through celite and extracted with ethyl acetate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=5:1) to give the title compound (857 mg, 89%) as a brown oil.

reactant | 2-amino-4′-(trifluoromethoxy)biphenyl | 2.50 mmol, 633 mg | NC1=C(C=CC=C1)C1=CC=C(C=C1)OC(F)(F)F | C13H10F3NO
reactant | 1-bromo-4-(tert-butyl)benzene | 2.50 mmol, 533 mg | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
reactant | potassium tert-butoxide | 15.0 mmol, 1.68 g | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | bis(dibenzylideneacetone)palladium | 0.125 mmol, 72 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.2 mmol, 124 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(tert-butyl)phenyl]amino-4′-(trifluoromethoxy)biphenyl | 857 mg, 89% | C(C)(C)(C)C1=CC=C(C=C1)NC1=C(C=CC=C1)C1=CC=C(C=C1)OC(F)(F)F | C23H22F3NO
